US04558155
2-(3,5-Dichlorophenoxy)-N-(1-methylethyl)ethanamine, Hydrochloride
Following the procedure of Preparation 1, 2-bromoethyl-3,5-dichlorophenyl ether and isopropyl amine were reacted in refluxing chloroform overnight to yield an oil, the free base of the title compound. Thereafter, a portion of the oil was reacted with ethereal hydrogen chloride to form the hydrochloride salt in 43.4% yield, m.p. 195°-197° C.

reactant | 2-bromoethyl-3,5-dichlorophenyl ether | BrCCC1=C(C=C(C=C1Cl)Cl)OC1=C(C(=CC(=C1)Cl)Cl)CCBr | C16H12Br2Cl4O
reactant | isopropyl amine | C(C)(C)N | C3H9N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-(3,5-Dichlorophenoxy)-N-(1-methylethyl)ethanamine, Hydrochloride | Cl.ClC=1C=C(OCCNC(C)C)C=C(C1)Cl | InChI=1S/C11H15Cl2NO.ClH/c1-8(2)14-3-4-15-11-6-9(12)5-10(13)7-11;/h5-8,14H,3-4H2,1-2H3;1H
